US05338739
3-{1-[2-[(4-Chlorobenzoyl)amino]ethyl]-2-pyrrolidinyl}phenyl methylcarbamate
The 4-chloro-N-{2-[2-(3-hydroxyphenyl)-1-pyrrolidinyl]ethyl}benzamide (0.29 g) was dissolved in tetrahydrofuran (20 ml), and methyl isocyanate (50.0 μl) and milled potassium carbonate (0.17 g) at ambient temperature were added, under nitrogen. The reaction mixture was stirred for 2 hrs and filtered through a pad of celite. The filter cake was washed with ethyl acetate, and the combined filtrates were concentrated. Crystallization of the residue with ether/petroleum ether gave 0.32 g (94%) of product. Recrystallization from ether gave the analytical sample, mp 103°-106° C.

reactant | 4-chloro-N-{2-[2-(3-hydroxyphenyl)-1-pyrrolidinyl]ethyl}benzamide | 0.29 g | ClC1=CC=C(C(=O)NCCN2C(CCC2)C2=CC(=CC=C2)O)C=C1 | C19H21ClN2O2
reactant | methyl isocyanate | 50.0 μl | CN=C=O | C2H3NO
reactant | potassium carbonate | 0.17 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-{1-[2-[(4-Chlorobenzoyl)amino]ethyl]-2-pyrrolidinyl}phenyl methylcarbamate | 0.32 g, 94% | CNC(OC1=CC(=CC=C1)C1N(CCC1)CCNC(C1=CC=C(C=C1)Cl)=O)=O | C21H24ClN3O3
